US04479953
50 grams of o-nitrobenzenesulfenyl chloride was added to carbon tetrachloride with stirring, followed by 50 milliliters of ammonium hydroxide over a one-minute period. The stirring was continued over 5 minutes to obtain an o-nitrobenzenesulfenamide intermediate which precipitated in the reaction mixture. The o-nitrobenzenesulfenamide intermediate was recovered by filtration and dried.

reactant | o-nitrobenzenesulfenyl chloride | 50 grams | [N+](=O)([O-])C1=C(C=CC=C1)SCl | C6H4ClNO2S
reactant | ammonium hydroxide | 50 milliliters | [OH-].[NH4+]
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | o-nitrobenzenesulfenamide | [N+](=O)([O-])C1=C(C=CC=C1)SN | C6H6N2O2S
